US06248738B1
1-Guanidino-7-sulphamoylisoquinoline (12 mg, 0.045 mmol) was dissolved in a solution of ethanol saturated with HCl gas (1.0 mL) and the mixture was stirred at room temperature for 1 hour. The solvents were evaporated in vacuo and the residue was azeotroped with dichloromethane (CH2Cl2) to give 1-guanidino-7-sulphamoylisoquinoline dihydrochloride (13 mg, 0.043 mmol) as a white solid.

reactant | 1-Guanidino-7-sulphamoylisoquinoline | 0.045 mmol, 12 mg | N(C(=N)N)C1=NC=CC2=CC=C(C=C12)S(N)(=O)=O | C10H11N5O2S
reactant | HCl | 1.0 mL | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-guanidino-7-sulphamoylisoquinoline dihydrochloride | 0.043 mmol, 13 mg | Cl.Cl.N(C(=N)N)C1=NC=CC2=CC=C(C=C12)S(N)(=O)=O | InChI=1S/C10H11N5O2S.2ClH/c11-10(12)15-9-8-5-7(18(13,16)17)2-1-6(8)3-4-14-9;;/h1-5H,(H2,13,16,17)(H4,11,12,14,15);2*1H
